US07968570B2
A mixture of 4-chloro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester (0.995 g, 3.0 mmol), 4-ethyl-benzylamine (0.520 mL, 3.6 mmol), and K2CO3 (0.621 g, 4.5 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-chloro-2-(4-ethyl-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.30 g, 28%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.24 (t, 3H), 2.63 (q, 2H), 4.27 (s, 2H), 4.76 (s, 2H) 7.20 (m, 4H), 7.59 (s, 1H), 7.78 (s, 1H). GC-MS: m/z 353 (M)+, 338 (M−15)+, 324 (M−29)+.

reactant | 4-chloro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester | 3.0 mmol, 0.995 g | COC(C1=C(C=C(C=C1C(F)(F)F)Cl)CBr)=O | C10H7BrClF3O2
reactant | 4-ethyl-benzylamine | 3.6 mmol, 0.520 mL | C(C)C1=CC=C(CN)C=C1 | C9H13N
reactant | K2CO3 | 4.5 mmol, 0.621 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-2-(4-ethyl-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.30 g, 28% | ClC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CC | C18H15ClF3NO
